US08604074B2
Step 1. Synthesis of N-(but-3-enyl)-2-nitro-N-phenylbenzenesulfonamide
Crushed KOH (0.0484 g, 0.862 mmol, 1.2 equiv) was added to 2-nitro-N-phenylbenzenesulfonamide (0.200 g, 0.719 mmol) in 1 mL DMF, and the mixture was stirred for 30 min. 4-Bromo-1-butene (0.2426 g, 1.80 mmol) in 2 mL DMF solution was added dropwise into the mixture and it was stirred at room temperature overnight. The reaction mixture was diluted with 30 mL EtOAc and washed with 1M HCl 2×10 mL and water 3×10 mL. The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using Hexanes/EtOAc to afford 0.1546 g white solid, yield 63.5%. 1H NMR (CDCl3, 400 MHz) δppm 2.20 (q, J=6.90 Hz, 2H) 3.83 (t, J=7.15 Hz, 2H) 5.00 (d, J=4.39 Hz, 1H) 5.03 (s, 1H) 5.64-5.83 (m, 1H) 7.14-7.21 (m, 3H) 7.30 (d, J=1.85 Hz, 2H) 7.42-7.46 (m, 2H) 7.52-7.58 (m, 1H) 7.60-7.66 (m, 1H)

reactant | KOH | 0.862 mmol, 0.0484 g, 1.2 equiv | [OH-].[K+]
reactant | 2-nitro-N-phenylbenzenesulfonamide | 0.719 mmol, 0.200 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=CC=CC=C1 | C12H10N2O4S
reactant | 4-Bromo-1-butene | 1.80 mmol, 0.2426 g | BrCCC=C | C4H7Br
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | N-(but-3-enyl)-2-nitro-N-phenylbenzenesulfonamide | 0.1546 g, yield 63.5% | C(CC=C)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C16H16N2O4S
